US05382664
A mixture of (3RS)-1,3-dihydro-3-(2-indolylcarbonylamino)-1-[(E)-3-methoxycarbonyl-2-propenyl]-5-phenyl-2H-1,4-benzodiazepine-2-one (0.47 g), tetrahydrofuran (15 ml), methanol (7.5 ml) and 1N aqueous sodium hydroxide (1 ml) was stirred for 1.0 hour at room temperature and cooled. To the cooled reaction mixture were added water (100 ml) and ethyl acetate (100 ml) and the mixture was adjusted to pH 4.0 with 6N hydrochloric acid under stirring. The organic layer was separated, washed with water, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel with an eluent of a mixture of chloroform and methanol (1:1) to give (3RS)-1,3-dihydro-3-(2-indolylcarbonylamino )-1-[(E)-3-carboxy-2-propenyl]-5-phenyl-2H-1,4-benzodiazepine-2-one (80 mg).

reactant | (3RS)-1,3-dihydro-3-(2-indolylcarbonylamino)-1-[(E)-3-methoxycarbonyl-2-propenyl]-5-phenyl-2H-1,4-benzodiazepine-2-one | 0.47 g | N1C(=CC2=CC=CC=C12)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C\C=C\C(=O)OC)=O | C29H24N4O4
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | methanol | 7.5 ml | CO | CH4O
product | (3RS)-1,3-dihydro-3-(2-indolylcarbonylamino )-1-[(E)-3-carboxy-2-propenyl]-5-phenyl-2H-1,4-benzodiazepine-2-one | 80 mg | N1C(=CC2=CC=CC=C12)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C\C=C\C(=O)O)=O | C28H22N4O4
